US06949542B2
4-[3-(2-Pyrrolidin-1-yl-pyridin-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-{3-oxo-3-[3-(2-pyrrolidin-1-yl-pyridin-4-yl)-phenyl]-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example M290) (294 mg, 0.52 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (191 mg, 82%).

reactant | (2-{3-oxo-3-[3-(2-pyrrolidin-1-yl-pyridin-4-yl)-phenyl]-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.52 mmol, 294 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=CC(=NC=C1)N1CCCC1)=O)=O)=O | C30H31F3N4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(2-Pyrrolidin-1-yl-pyridin-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | N1(CCCC1)C1=NC=CC(=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C=C2)C(F)(F)F | C25H21F3N4O
